US06348478B1
1-(phenylmethoxy)bicyclo[3.3.1]nonan-3-one
A diethyl ether solution of 260 mg of 2,2,2-trichloro-1-(phenylmethoxy)ethanimine synthesized in the production example 30 was added to 4 ml of a diethyl ether solution of the compound obtained in the production example 29 to prepare the homogeneous solution, and the flask was immersed in an ice water bath. The solution in the flask was mixed with 10 μl of trifluoromethanesulfonic acid, gradually heated up to room temperature, and simultaneously stirred for 17 hours. After the reaction was finished, the reaction solution was diluted with ethyl acetate and extracted. The obtained organic layers were integrated, sequentially washed with a saturated aqueous solution of sodium bicarbonate and with a saturated aqueous solution of sodium chloride, and then dried over Na2SO4. The solvent was distilled away under reduced pressure, and the residue was purified by column chromatography to obtain the title compound (120 mg, 70%).

reactant | diethyl ether | C(C)OCC | C4H10O
reactant | 2,2,2-trichloro-1-(phenylmethoxy)ethanimine | 260 mg | ClC(C(=N)OCC1=CC=CC=C1)(Cl)Cl | C9H8Cl3NO
reactant | diethyl ether | 4 ml | C(C)OCC | C4H10O
reactant | trifluoromethanesulfonic acid | 10 μl | FC(S(=O)(=O)O)(F)F | CHF3O3S
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-(phenylmethoxy)bicyclo[3.3.1]nonan-3-one | 120 mg, 70% | C1(=CC=CC=C1)COC12CC(CC(CCC1)C2)=O | C16H20O2
